US07601855B2
Step 3 Acetic acid 3-(4-hydroxy-phenyl)-8-methyl4oxo4H-chromen-7-yl ester
Hydroxy-3-(4-hydroxy-phenyl)-8-methyl-chromen-4-one (35.18 g) were combined into a round bottom flask (1 L). Pyridine (38 ml, 2 equivalents) and acetic anhydride (576 ml, 47 equivalents) were added to the round bottom flask while stirring at room temperature. The reaction was monitored by HPLC and was completed instantaneously. There was a change in colour observed, the reaction mixture was dark brown initially and went bright orange with tan brown floccular particles upon stirring. The reaction mixture was poured into chilled, distilled H2O (4 L) and was left stirring at room temperature for 30 minutes. An off-white solid was collected by suction filtration. 1HNMR of the solid in d-CDCl3 indicated it was Acetic acid 3-(4-hydroxy-phenyl)-8-methyl4-oxo-4H-chromen-7-yl ester with >95% purity The solid was dried on a freeze dryer for 24 hours. When dry, the solid was weighed (31.80 g, 69%).

reactant | Hydroxy-3-(4-hydroxy-phenyl)-8-methyl-chromen-4-one | 35.18 g | OC=1OC2=C(C=CC=C2C(C1C1=CC=C(C=C1)O)=O)C | C16H12O4
reactant | Pyridine | 38 ml, 2 equivalents | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 576 ml, 47 equivalents | C(C)(=O)OC(C)=O | C4H6O3
product | Acetic acid 3-(4-hydroxy-phenyl)-8-methyl4oxo4H-chromen-7-yl ester | OC1=CC=C(C=C1)C1=COC2=C(C(=CC=C2C1=O)OC(C)=O)C | C18H14O5
